US03978034
L-Aspartyl-2,5-dihydro-L-phenylalanine methyl ester
β-tert.-butyl-Nα-tert.-butyloxycarbonyl-L-aspartyl-2,5-dihydro-L-phenylalanine methyl ester (13 g.) is dissolved in trifluoroacetic acid (80 ml.) and the solution kept under nitrogen for one hour. The solvent is concentrated in vacuo and the residue is triturated with ether-hexane until it becomes solid. This material is dissolved in water (ca 30 ml.) neutralized with DEAE sephadex (OH cycle), filtered and the filtrate concentrated in vacuo to a small, volume (ca 5 ml.). The dipeptide ester is crystallized on standing in the refrigerator.

reactant | β-tert.-butyl-Nα-tert.-butyloxycarbonyl-L-aspartyl-2,5-dihydro-L-phenylalanine methyl ester | 13 g | COC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)C(C(O)=O)C(C)(C)C)=O)CC=1CC=CCC1)=O | C23H36N2O7
solvent | trifluoroacetic acid | 80 ml | FC(C(=O)O)(F)F | C2HF3O2
product | L-Aspartyl-2,5-dihydro-L-phenylalanine methyl ester | COC([C@@H](NC([C@@H](N)CC(O)=O)=O)CC=1CC=CCC1)=O | C14H20N2O5
